US05936075
Synthesis of NeuAcα2-3Galβ1-3(NeuAcα2-6)GalNH2 βSEt. NeuAcα2-3Galβ1-3GalNH2 βSEt is prepared as described above and used directly or after isolation as acceptor for a α2-6-sialyltransferase (e.g. EC 2.4.99.7) reaction with a suitable glycosyl donor such as CMP-NeuAc.

reactant | NeuAcα2-3Galβ1-3(NeuAcα2-6)GalNH2 | OC(=O)[C@@]1(O[C@@H]2[C@H]([C@H](O[C@@H]3[C@H](C(O)O[C@@H]([C@@H]3O)CO[C@]3(C(O)=O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O3)[C@H](O)[C@H](O)CO)N)O[C@@H]([C@@H]2O)CO)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C34H57N3O26
reactant | CMP-NeuAc | CC(=O)N[C@@H]1[C@H](C[C@](OC1[C@@H]([C@@H](CO)O)O)(C(=O)O)OP(=O)([O-])OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=NC3=O)N)O)O)O.[Na+]
product | NeuAcα2-3Galβ1-3GalNH2 | OC(=O)[C@@]1(O[C@@H]2[C@H]([C@H](O[C@@H]3[C@H](C(O)O[C@@H]([C@@H]3O)CO)N)O[C@@H]([C@@H]2O)CO)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C23H40N2O18
